Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Left leg weakness
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Mr. ___ is a ___ yo right handed man who presents to the
emergency room for evaluation of left sided weakness.  He is 
here
with his son.  This history was obtained from the patient, his
son and with the assistance of the ___ interpreter.
 
The patient was traveling from ___, where he lives, to ___
yesterday.  He had a connection in ___ and reports feeling
fine but when he attempted to get up and walk on the flight from
___ to ___, he noticed he was having difficulty with his
left leg.  He was able to ambulate off of the plane and his son
demonstrates his walking as a dragging and somewhat 
circumduction
of the left leg.  The patient was taken to his son's home.  
There
he noticed that his left hand was clumsy when attempting to use
to for holding a paper.  His son felt his speech was not clear. 
He had difficulty taking off his pants due to weakness.  He was
always able to walk, albeit slowly. The patient's son states
there was a complaint of pain in the left leg, but the patient
now denies this.  He endorses intermittent left sided chest pain
today when walking.  He had no shortness of breath, no radiation
of the pain.   He endorses fatigue in his legs when standing for
prolonged periods, this has been present for a few years.  He
denies neck pain, injury.

On neurologic review of systems, the patient denied headache,
loss of vision, blurred vision, diplopia, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denied
difficulties producing or comprehending speech but his son 
states
his speech is slurred.  Denied parasthesiae. No bowel or bladder
incontinence or retention. He has intermittent cramping of his
legs in sleep.  He has chronic twitching of his right face and a
chronic right facial paralysis secondary to remote Botox
injection for neuralgia.
 
On general review of systems, the patient denied recent fever or
chills.  No night sweats or recent weight loss or gain. Denied
cough, shortness of breath.  Chest pain today, as above.  chest
pain or tightness, palpitations.  Denied nausea, vomiting,
diarrhea, constipation or abdominal pain.  No recent change in
bowel or bladder habits.  No dysuria.  Denied arthralgias or
myalgias. Denied rash.

 
Past Medical History:
Hypertension (no medications)
Hyperlipidemia 
Elevated blood sugars
Remote asthma
Trigeminal Neurologia s/p Botox on the right with residual 
facial
paralysis and muscle spasm.
Hx of mania ___ years ago requiring psychiatric treatment
Hx of prostate surgery (? cyst)
Hx burn to right ankle as a child

 
Social History:
___
Family History:
No history of stroke, heart disease.
 

 
Physical Exam:
T 98 BP 210/104 (recheck 167/80) HR 79 RR 18 O2% 97
General: Awake, cooperative, NAD.
Head and Neck: no cranial abnormalities, no scleral icterus
noted, mmm, no lesions noted in oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
but decreased lateral range of motion bilaterally.
Pulmonary: Lungs clear to auscultation, decreased air movement 
at
the bases. 
Cardiac: regular rate and occasional PVCs heard and correlated
with telemetry, normal s1/s2. No murmurs, rubs, or gallops
appreciated.
Abdomen: soft, non-tender, normoactive bowel sounds, no masses 
or
organomegaly noted. 
Extremities: 2+ radial, DP pulses bilaterally. 
Skin: Right ankle swollen, skin discoloration (chronic). 
 
Neurologic: 
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive.  Language is fluent in ___
and ___ per son/interpreter.  Intact repetition and
comprehension.  Normal prosody.  Pt. was able to name both high
and low frequency objects in ___.  Able to read without
difficulty.  Speech was mildly dysarthric, mostly labial
dysarthria. The pt. had good knowledge of current events.  There
was no evidence of apraxia or neglect.
 
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 4 to 2mm and brisk.  Visual fields full on bedside
testing with red pin. Funduscopic exam revealed sharp disc
margins. 
III, IV, VI: ? Slightly decreased voluntary upgaze on right, 
full
with OCR. No nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: Right eye ptosis and facial droop. Facial sensation
symmetric.  Right facial muscle spasms present intermittently.
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and sternocleidomastoid 
bilaterally.

XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. Left pronator drift. No
rigidity. No adventitious movements, such as tremors, noted. No
asterixis. 
 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5-   ___   ___  5-  5    4+ 4-   5     4+    5 
R  5    ___   ___  5-  5    5  5    5     4+    5 
 
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense 6 seconds at the toes bilaterally, 
proprioception
diminished to fine movements at the toes, intact to gross
movements. No extinction to double simultaneous stimuli.
 
-Deep tendon reflexes: 
    Bi Tri ___ Pat Ach 
L   2   2    2    2   0 
R   1   2    2    1   0 
Plantar response was flexor bilaterally. 
 
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS on the right; testing limited on the
left secondary to weakness.
 
-Gait: Stands slowly, unsteady when standing.  gait not tested
further.
 

 
Brief Hospital Course:
His exam is notable for a regular rhythm. He has a left sided 
weakness affecting both the arm and leg in a predominantly upper 
motor neuron pattern and the distal hand most affected.  Speech 
is mildy dysarthric. There are no sensory symptoms or objective 
sensory findings other than mild symmetric loss of 
proprioceptive and vibratory sense.  He does have mild right 
facial ptosis and deepening of right NLF. In addition, he has 
some muscle spasms in his right cheek region. 

His head CT shows small vessel disease as well as bilateral 
lacunae within the basal ganglia. There is no evidence of 
hemorrhage. MRI showed a small diffusion lesion extending from 
the Posterior Limb of the Internal Capsule to the 
paraventricular region on the right.

Overall, we felt this was a small vessel infarct. We started him 
on ASA 325mg, checked his lipids and HbA1c. He is on Crestor and 
will increase his dose. 
Telemetry monitoring ruled out arrhythmia. He was also ruled out 
for MI. He may complete his work up once in ___ with a TTE. 

 

 
Medications on Admission:
Rosuvastatin
Pioglitazone

 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. pioglitazone 15 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
3. Crestor 20 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right capsular stroke

 
Discharge Condition:
His exam at discharge is notable for a regular rhythm. He has a 
left sided weakness affecting both the arm and leg in a 
predominantly upper motor neuron pattern and the distal hand 
most affected.  Speech is mildy dysarthric. There are no sensory 
symptoms or objective sensory findings other than mild symmetric 
loss of proprioceptive and vibratory sense.  He does have mild 
right facial ptosis and deepening of right NLF. In addition, he 
has some muscle spasms in his right cheek region. 

 
Discharge Instructions:
You have had a stroke. This stroke happened in your small vessel 
territory. It is probably due to your long term hypertension and 
dyslipidemia. 

You will require rehabilitation. We recommend that you remain on 
pioglitazone. In addition, we have started you on Aspirin 325 mg 
qd and increased your rosuvastatin dose up to 20 mg qhs. 
 
Followup Instructions:
___